US05236815
1.b. Preparation of 1-(2-sulphonatobenzoyl)-5-nitroindazole potassium salt (Compound I-2)
To a suspension of 268.8 9 (0.6 mole) of 1-(2-sulphonatobenzoyl)-5-nitroindazole trimethylamine salt in 540 ml of methanol and 360 ml of water was added at room temperaure whilst stirring a saturated potassium chloride solution containing 134 g (1.8 mole) of potassium chloride in 400 ml of water. Then the suspension was stirred for another two hours. After waiting for 12 hours the precipitate was filtered off, washed with 480 ml of a water/methanol (1/1) mixture and finally dried. Yield: 217 g (94 %): melting point>300° C.

reactant | 1-(2-sulphonatobenzoyl)-5-nitroindazole trimethylamine salt | CN(C)C.S(=O)(=O)([O-])C1=C(C(=O)N2N=CC3=CC(=CC=C23)[N+](=O)[O-])C=CC=C1
reactant | potassium chloride | [Cl-].[K+]
reactant | potassium chloride | 1.8 mole, 134 g | [Cl-].[K+]
solvent | methanol | 540 ml | CO | CH4O
solvent | water | 360 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 1-(2-sulphonatobenzoyl)-5-nitroindazole potassium salt | [K+].S(=O)(=O)([O-])C1=C(C(=O)N2N=CC3=CC(=CC=C23)[N+](=O)[O-])C=CC=C1 | InChI=1S/C14H9N3O6S.K/c18-14(11-3-1-2-4-13(11)24(21,22)23)16-12-6-5-10(17(19)20)7-9(12)8-15-16;/h1-8H,(H,21,22,23);/q;+1/p-1
